US04906628
5-[4-(4-Oxo-1,4-dihydropyridin-1-yl)phenyl]-6-methyl-3H,6H-1,3,4-thiadiazin-2-one
A stirred mixture of 5-(4-aminophenyl)-6-methyl-3H,6H-1,3,4-thiadiazine-2-one (0.54 g), 4H-pyran-4-one (0.26 g), glacial acetic acid (0.15 g) and water (20 ml) was heated under reflux for 24 hours to give a solid, 0.54 g. Recrystallisation from aqueous ethanol gave the title compound, 0.28 g, which darkened at 265° C. and sublimed at 273°-275° C.

reactant | 5-(4-aminophenyl)-6-methyl-3H,6H-1,3,4-thiadiazine-2-one | 0.54 g | NC1=CC=C(C=C1)C1=NNC(SC1C)=O | C10H11N3OS
reactant | 4H-pyran-4-one | 0.26 g | O1C=CC(C=C1)=O | C5H4O2
reactant | acetic acid | 0.15 g | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | 5-[4-(4-Oxo-1,4-dihydropyridin-1-yl)phenyl]-6-methyl-3H,6H-1,3,4-thiadiazin-2-one | O=C1C=CN(C=C1)C1=CC=C(C=C1)C1=NNC(SC1C)=O | C15H13N3O2S
